US05916916
Preparation of 3-[4-((2-(4-hydroxyphenyl)-6-hydroxynaphth-1-yl)oxy)phenyl]propenoic acid
A solution was prepared of 658 mg (1.54 mmol) of 3-[4-((2-(4-methoxyphenyl)-6-methoxynaphth-1-yl)oxy)phenyl]propenoic acid hydrate in 10 mL of dichloromethane. The solution was cooled to 5° C. and 0.44 mL (4.7 mmol) of BBr3 was added. The reaction was allowed to proceed for one hour at 0° C. under a nitrogen atmosphere. The reaction was quenched by pouring into water and extracting three times with ethyl acetate. The combined ethyl acetate extracts were washed with water, brine, dried with Na2SO4, and evaporated to an oily, red solid. The product was purified by chromatography on a silica gel column eluted with MeOH--CHCl3 (1:99) (v/v). This yielded 489 mg of the title compound as a yellow, amorphous solid, mp 150-153° C.

reactant | 3-[4-((2-(4-methoxyphenyl)-6-methoxynaphth-1-yl)oxy)phenyl]propenoic acid hydrate | 1.54 mmol, 658 mg | O.COC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)C=CC(=O)O
reactant | BBr3 | 4.7 mmol, 0.44 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[4-((2-(4-hydroxyphenyl)-6-hydroxynaphth-1-yl)oxy)phenyl]propenoic acid | OC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)O)OC1=CC=C(C=C1)C=CC(=O)O | C25H18O5
